### ISSUE TITLE
[Tooling] Create VS Code extension for DumbContracts development

### ISSUE THREAD

**Issue by Th0rgal** [Th0rgal/verity#77]
## Summary
Build VS Code extension with DumbContracts-specific features to dramatically improve developer experience and reduce learning curve.

## Motivation
**Current Developer Experience**:
- Generic Lean 4 extension exists
- No DumbContracts-specific features
- No contract scaffolding
- No proof hints or autocomplete
- No integrated coverage tracking

**Pain Points**:
- Manual contract scaffolding
- No IDE support for proof patterns
- Context switching to run tests
- Manual coverage checking

### Feature 1: Contract Scaffolding
**Command**: "DumbContracts: New Contract"

**Generated Structure**:
```lean
-- DumbContracts/Examples/MyContract/Spec.lean
-- DumbContracts/Examples/MyContract/Contract.lean
-- DumbContracts/Examples/MyContract/Proofs.lean
-- test/PropertyMyContract.t.sol
```

**Template includes**:
- Placeholder spec definitions
- EDSL implementation skeleton
- Common proof patterns
- Property test template

### Feature 2: Proof Assistant
**Auto-suggest tactics** based on goal type:

```lean
-- Goal: a + b ≤ MAX_UINT256
-- Suggestion: omega | linarith | have h : ... := safeAdd_some_iff_le
```

**Autocomplete for Automation.lean**:
- Type `safe` → suggests `safeAdd`, `safeSub`
- Type `storage` → suggests storage lemmas
- Inline documentation for each lemma

### Feature 3: Inline Property Coverage
**Visual indicators** in editor:

```lean
theorem transfer_correct : ... := by  -- ✅ Tested (Property...t.sol:42)
  ...

theorem new_property : ... := by      -- ⚠️ No test found
  ...
```

**Jump to test**: Click indicator → jump to Solidity test

### Feature 4: Build Integration
**Command Palette**:
- "DumbContracts: Build All"
- "DumbContracts: Run Tests"
- "DumbContracts: Check Coverage"

**Inline errors**:
- Show `lake build` errors in editor
- Highlight failing theorems
- Quick-fix suggestions

### Feature 5: Proof Explorer (Sidebar)
**Tree view**:
```
📁 SimpleStorage
  ├── ✅ getValue_correct
  ├── ✅ setValue_correct
  ├── ⚠️ authorization_check (no test)
  └── 📊 Coverage: 95% (19/20)

📁 Ledger
  ├── ✅ deposit_increases_balance
  ├── 🚧 deposit_sum_equation (sorry)
  └── 📊 Coverage: 88% (28/32)
```

**Click theorem** → jump to proof

### Feature 6: Proof Snippets
**Shortcuts** for common patterns:

`prop-getter` →
```lean
theorem getter_correct : ... := by
  unfold getValue
  simp [getStorage]
```

`prop-setter` →
```lean
theorem setter_correct : ... := by
  unfold setValue
  simp [setStorage]
```

### Technology Stack
- **Language**: TypeScript
- **Base**: Lean 4 LSP (existing extension)
- **Protocol**: Language Server Protocol
- **UI**: VS Code Extension API

### Architecture
```
DumbContracts Extension
├── LSP Client (communicate with Lean)
├── Contract Scaffolder
├── Proof Assistant (tactic suggestions)
├── Coverage Tracker (parse manifest)
├── Build Runner (execute lake)
└── Proof Explorer (tree view)
```

### Integration Points
1. **Lean 4 LSP**: Get goal state, type information
2. **Property Manifest**: Read `property_manifest.json`
3. **Lake**: Execute `lake build`, parse output
4. **Forge**: Run tests, parse results

## Benefits
✅ Dramatically improves DX (developer experience)
✅ Reduces learning curve
✅ Fewer context switches
✅ Inline feedback loop
✅ Industry-standard practice
✅ Attracts VS Code users (majority of developers)

### Phase 1: Core Features (3 weeks)
- Contract scaffolding
- Build integration
- Basic proof explorer

### Phase 2: AI Assistant (2 weeks)
- Tactic suggestions
- Autocomplete for automation
- Inline documentation

### Phase 3: Coverage Integration (1 week)
- Parse property manifest
- Inline coverage indicators
- Jump to test

### Phase 4: Polish (1 week)
- Snippets library
- Settings/configuration
- Documentation
- Marketplace publish

## Files Created
```
dumbcontracts-vscode-extension/
├── package.json
├── src/
│   ├── extension.ts (entry point)
│   ├── scaffolder.ts
│   ├── proofAssistant.ts
│   ├── coverageTracker.ts
│   ├── buildRunner.ts
│   └── proofExplorer.ts
├── syntaxes/
│   └── dumbcontracts.tmLanguage.json
└── README.md
```

## Dependencies
- VS Code Extension API
- Lean 4 LSP (extend existing extension)
- TypeScript toolchain

## Estimated Effort
2-3 months for initial release

## Success Criteria
- [ ] Scaffolding generates working contract template
- [ ] Proof suggestions reduce time by 30%
- [ ] Coverage tracking shows real-time status
- [ ] Build integration shows errors inline
- [ ] 90%+ user satisfaction
- [ ] Published to VS Code Marketplace

## Related Issues
- Complements #66 (First Contract tutorial)
- Uses #72 (automated property extraction)
- Improves workflow for #69, #73 (ERC20, ERC721)

## Future Enhancements
- Proof search (find similar proofs)
- AI-powered proof completion
- Interactive proof tree visualization
- Git integration for proof versioning

**Comment by Th0rgal** [comment]
## Review Findings

### 1. Wrong References
- References `DumbContracts/` paths throughout
- Depends on #72 (property extraction) which is **already closed** — this dependency is resolved

### 2. Significant Scope Concern
A VS Code extension is a major project (2-3 months estimated). Given that the core verification work (#65 Ledger sum proofs, #67 UInt256 integration) is still incomplete, and no realistic example contracts (ERC20, ERC721) exist yet, investing in tooling at this stage may be premature.

The existing Lean 4 VS Code extension already provides LSP features, proof state visualization, and error reporting. The incremental value of a DumbContracts/Verity-specific extension may not justify the effort until the framework has more users.

### 3. Consider Lower-Cost Alternatives
Instead of a full extension, consider:
- VS Code snippets file (`.vscode/verity.code-snippets`) for common patterns
- A Lean 4 library of tactics (already proposed in #79)
- Better documentation of existing Lean 4 VS Code workflows

**Comment by Th0rgal** [comment]
This references the old DumbContracts naming. The standard Lean 4 VS Code extension provides language server support for Verity. A custom extension for a project at this scale is premature — the effort is better invested in the verification pipeline itself.
